US06509337B1
To a solution of (±)-benzyloxycarbonyl-2-piperazinecarboxylic acid (1.90 grams, 7.2 mmol) in dioxane-water (10 ml, ca. 1:1) is added 1N sodium hydroxide solution (15 ml, 15 mmol) followed by 4-methoxybenzenesulfonyl chloride. The solution is stirred for 1 hour, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The combined extracts are dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (eluton with 2:1 ethyl acetate-hexanes with 1% acetic acid) to provide (±)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxylic acid.

reactant | (±)-benzyloxycarbonyl-2-piperazinecarboxylic acid | 7.2 mmol, 1.90 grams | C(C1=CC=CC=C1)OC(=O)N1C(CNCC1)C(=O)O | C13H16N2O4
reactant | sodium hydroxide | 15 mmol, 1N, 15 ml | [OH-].[Na+]
reactant | 4-methoxybenzenesulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | dioxane water | 10 ml | O1CCOCC1.O
product | (±)-1-(4-methoxybenzenesulfonyl)-4-benzyloxycarbonyl-2-piperazinecarboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)O | C20H22N2O7S
